US05776495
gemfibrozil
and finally mainly metronidazole, itraconazole, cyclosporine, piperacilline and cefuroxime.

reactant | metronidazole | CC1=NC=C(N1CCO)[N+](=O)[O-] | C6H9N3O3
reactant | itraconazole | CCC(C)N1C(=O)N(C=N1)C=2C=CC(=CC2)N3CCN(CC3)C=4C=CC(=CC4)OC[C@H]5CO[C@](O5)(CN6C=NC=N6)C=7C=CC(=CC7Cl)Cl | C35H38Cl2N8O4
reactant | cyclosporine | CC[C@H]1C(=O)N(CC(=O)N([C@H](C(=O)N[C@H](C(=O)N([C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N1)[C@@H]([C@H](C)C/C=C/C)O)C)C(C)C)C)CC(C)C)C)CC(C)C)C)C)C)CC(C)C)C)C(C)C)CC(C)C)C)C | C62H111N11O12
reactant | piperacilline | CCN1CCN(C(=O)C1=O)C(=O)N[C@H](C=2C=CC=CC2)C(=O)N[C@H]3[C@@H]4N(C3=O)[C@H](C(S4)(C)C)C(=O)O | C23H27N5O7S
reactant | cefuroxime | CO/N=C(/C1=CC=CO1)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)COC(=O)N)C(=O)O | C16H16N4O8S
product | gemfibrozil | CC=1C=CC(=C(C1)OCCCC(C)(C)C(=O)O)C | C15H22O3
